US05849757
3-(1-tert-Butoxycarbonylaminocyclopropyl)azetidine
To 1.84 g (5.31 mmol) of 1-benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)azetidine dissolved in 100 ml of ethanol was added 1.5 g of 10% palladium-carbon, followed by overnight catalytic hydrogenation at room temperature under normal pressure. After removal of the catalyst by filtration, the solvent was evaporated to yield quantitative amount of the title compound.

reactant | 1-benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)azetidine | 5.31 mmol, 1.84 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C1(CC1)NC(=O)OC(C)(C)C | C19H26N2O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
product | 3-(1-tert-Butoxycarbonylaminocyclopropyl)azetidine | C(C)(C)(C)OC(=O)NC1(CC1)C1CNC1 | C11H20N2O2
